US08536203B2
To a stirred solution of (4-benzyloxy-3-methoxy-phenyl)-(2-trifluoromethyl-pyridin-3-yl)-methanone (0.913 g, 2.36 mmol) in dichloromethane cooled in an ice-water bath was added a 30% solution of hydrogen bromide in acetic acid (3.54 mL, 17.7 mmol) dropwise. The resulting solution was allowed to stir at room temperature overnight then poured onto ice-water (100 mL). The phases were separated and the aqueous phase extracted with dichloromethane (10 mL). The combined organic layers were washed with water and brine, then dried over anhydrous sodium sulphate and filtered. Evaporation of the solvent left a brown oil that was chromatographed over silica gel (petroleum ether/ethyl acetate, 1:1) to give (4-hydroxy-3-methoxyphenyl)(2-(trifluoromethyl)pyridin-3-yl)methanone as a colourless solid, 0.561 g (80%).

reactant | (4-benzyloxy-3-methoxy-phenyl)-(2-trifluoromethyl-pyridin-3-yl)-methanone | 2.36 mmol, 0.913 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(=O)C=1C(=NC=CC1)C(F)(F)F)OC | C21H16F3NO3
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 17.7 mmol, 3.54 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4-hydroxy-3-methoxyphenyl)(2-(trifluoromethyl)pyridin-3-yl)methanone | OC1=C(C=C(C=C1)C(=O)C=1C(=NC=CC1)C(F)(F)F)OC | C14H10F3NO3
